US07718652B2
In an analogous manner to Example 1 step 7, 3-(3-chloropropyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide (522 mg) was coupled to 3-chloro-4-fluorophenylboronic acid to provide 1-(3-chloro-4-fluorophenyl)-3-(3-chloropropyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide (138 mg):

reactant | 3-(3-chloropropyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide | 522 mg | ClCCCN1S(NC2=C(C1)C=CC=C2)(=O)=O | C10H13ClN2O2S
reactant | 3-chloro-4-fluorophenylboronic acid | ClC=1C=C(C=CC1F)B(O)O | C6H5BClFO2
product | 1-(3-chloro-4-fluorophenyl)-3-(3-chloropropyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide | 138 mg | ClC=1C=C(C=CC1F)N1S(N(CC2=C1C=CC=C2)CCCCl)(=O)=O | C16H15Cl2FN2O2S
